US07485639B2
0.054 g of 3-ethoxy-4-methoxybenzaldehyde and 0.017 ml of acetic acid were added to a solution of 0.080 g of 4-amino-3-(2-fluorobenzylsulfanyl)-6-methyl-4H-1,2,4-triazin-5-one in 4 ml of ethanol, and the mixture was stirred at 65° C. The resultant precipitate was filtered off with suction, giving 4-[(3-ethoxy-4-methoxybenzylidene)amino]-3-(2-fluorobenzylsulfanyl)-6-methyl-4H-1,2,4-triazin-5-one.

reactant | 3-ethoxy-4-methoxybenzaldehyde | 0.054 g | C(C)OC=1C=C(C=O)C=CC1OC | C10H12O3
reactant | acetic acid | 0.017 ml | C(C)(=O)O | C2H4O2
reactant | 4-amino-3-(2-fluorobenzylsulfanyl)-6-methyl-4H-1,2,4-triazin-5-one | 0.080 g | NN1C(=NN=C(C1=O)C)SCC1=C(C=CC=C1)F | C11H11FN4OS
solvent | ethanol | 4 ml | C(C)O | C2H6O
product | 4-[(3-ethoxy-4-methoxybenzylidene)amino]-3-(2-fluorobenzylsulfanyl)-6-methyl-4H-1,2,4-triazin-5-one | C(C)OC=1C=C(C=NN2C(=NN=C(C2=O)C)SCC2=C(C=CC=C2)F)C=CC1OC | C21H21FN4O3S
